* C:\Users\jpa55\work\spice\saradc\module2.asc
M1 N038 N046 N050 N042 CMOSN l={L6} w={W6} m={M6}
M2 N039 N047 N051 N043 CMOSN l={L7} w={W7} m={M7}
M3 N014 N027 N029 N020 CMOSN l={L8} w={W8} m={M8}
M4 N031 N024 N021 N018 CMOSP l={L9} w={W9} m={M9}
M5 N012 N005 N002 N008 CMOSP l={L10} w={W10} m={M10}
M6 N041 N049 N053 N045 CMOSN l={L11} w={W11} m={M11}
M7 N040 N048 N052 N044 CMOSN l={L12} w={W12} m={M12}
M8 N017 N028 N030 N023 CMOSN l={L13} w={W13} m={M13}
M9 N032 N026 N022 N019 CMOSP l={L14} w={W14} m={M14}
M10 N013 N006 N003 N011 CMOSP l={L15} w={W15} m={M15}
XX1 N001 N002 para_register
XX2 N001 N009 para_register
XX3 N001 N010 para_register
XX4 N001 N003 para_register
XX5 N004 N005 para_register
XX6 N008 N009 para_register
XX7 N012 N015 para_register
XX8 N009 N018 para_register
XX9 N015 N014 para_register
XX10 N015 N021 para_register
XX11 N004 N027 para_register
XX12 N020 VSS para_register
XX13 N029 VSS para_register
XX14 N024 N025 para_register
XX15 N033 N031 para_register
XX16 N036 N033 para_register
XX17 N038 N036 para_register
XX18 N039 N036 para_register
XX19 N054 N050 para_register
XX20 N054 N042 para_register
XX21 N054 N043 para_register
XX22 N054 N051 para_register
XX23 N047 N025 para_register
XX24 N033 N034 para_register
XX25 N025 N035 para_register
XX26 N010 N011 para_register
XX27 N006 N007 para_register
XX28 N010 N019 para_register
XX29 N016 N017 para_register
XX30 VSS N023 para_register
XX31 VSS N030 para_register
XX32 N028 N007 para_register
XX33 N034 N026 para_register
XX34 N035 N032 para_register
XX35 N049 N007 para_register
XX36 N048 N034 para_register
XX37 N035 N037 para_register
XX38 N037 N040 para_register
XX39 N037 N041 para_register
XX40 N052 N054 para_register
XX41 N044 N054 para_register
XX42 N045 N054 para_register
XX43 N053 N054 para_register
XX44 N004 N046 para_register
XX45 N013 N016 para_register
XX46 N016 N022 para_register

* block symbol definitions
.subckt para_register in out
R1 out in 0.0001
.ends para_register

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jpa55\Documents\LTspiceXVII\lib\cmp\standard.mos
.backanno
.end
