* C:\Users\jpa55\work\spice\saradc\module2.asc
M1 N037 N045 N049 N041 CMOSN l={L6} w={W6} m={M6}
M2 N038 N046 N050 N042 CMOSN l={L7} w={W7} m={M7}
M3 N013 N026 N028 N019 CMOSN l={L8} w={W8} m={M8}
M4 N030 N023 N020 N017 CMOSP l={L9} w={W9} m={M9}
M5 N011 N004 N001 N007 CMOSP l={L10} w={W10} m={M10}
M6 N040 N048 N052 N044 CMOSN l={L11} w={W11} m={M11}
M7 N039 N047 N051 N043 CMOSN l={L12} w={W12} m={M12}
M8 N016 N027 N029 N022 CMOSN l={L13} w={W13} m={M13}
M9 N031 N025 N021 N018 CMOSP l={L14} w={W14} m={M14}
M10 N012 N005 N002 N010 CMOSP l={L15} w={W15} m={M15}
XX1 VDD N001 para_register
XX2 VDD N008 para_register
XX3 VDD N009 para_register
XX4 VDD N002 para_register
XX5 N003 N004 para_register
XX6 N007 N008 para_register
XX7 N011 N014 para_register
XX8 N008 N017 para_register
XX9 N014 N013 para_register
XX10 N014 N020 para_register
XX11 N003 N026 para_register
XX12 N019 VSS para_register
XX13 N028 VSS para_register
XX14 N023 N024 para_register
XX15 N032 N030 para_register
XX16 N035 N032 para_register
XX17 N037 N035 para_register
XX18 N038 N035 para_register
XX19 VSS N049 para_register
XX20 VSS N041 para_register
XX21 VSS N042 para_register
XX22 VSS N050 para_register
XX23 N046 N024 para_register
XX24 N032 N033 para_register
XX25 N024 N034 para_register
XX26 N009 N010 para_register
XX27 N005 N006 para_register
XX28 N009 N018 para_register
XX29 N015 N016 para_register
XX30 VSS N022 para_register
XX31 VSS N029 para_register
XX32 N027 N006 para_register
XX33 N033 N025 para_register
XX34 N034 N031 para_register
XX35 N048 N006 para_register
XX36 N047 N033 para_register
XX37 N034 N036 para_register
XX38 N036 N039 para_register
XX39 N036 N040 para_register
XX40 N051 VSS para_register
XX41 N043 VSS para_register
XX42 N044 VSS para_register
XX43 N052 VSS para_register
XX44 N003 N045 para_register
XX45 N012 N015 para_register
XX46 N015 N021 para_register

* block symbol definitions
.subckt para_register in out
R1 out in 0.0001
.ends para_register

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jpa55\Documents\LTspiceXVII\lib\cmp\standard.mos
.backanno
.end
